US07423158B2
A mixture of pentynol (8.0 g, 95 mmol), t-butyldiphenylsilylchloride (28 g, 114 mmol) and Et3N (14 g, 138 mmol) in CH2Cl2 is stirred at room temperature for 16 h, treated with 1M K2CO3 and extracted with CH2Cl2. The combined extracts are dried over MgSO4 and concentrated in vacuo. The residue is purified by filtration on a silica pad to obtain 30 g of t-butylpent-4-ynyloxy diphenyl silane (yield: 98%

reactant | pentynol | 95 mmol, 8.0 g | C(#CCCC)O | C5H8O
reactant | t-butyldiphenylsilylchloride | 114 mmol, 28 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | Et3N | 138 mmol, 14 g | CCN(CC)CC | C6H15N
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | t-butylpent-4-ynyloxy diphenyl silane | 30 g, yield: 98% | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCCC#C | C21H26OSi
